US04904675
5-Carboxy-2-(2-thiazolyl)-pyridine
A mixture of 500 mg (2.4 mmol) of 5-carboxy-2-(4,5-dihydro-2-thiazolyl)-pyridine, 50 mg of 10% Pd on C and 5 g of diphenylether is refluxed for 4 h. The mixture is then diluted with methanol and the catalyst filtered off. The methanol is evaporated and some hexane added to the residue. The diphenylether dissolves and a solid is left, which is filtered off and washed with hexane. This residue is dissolved again in methanol and treated with charcoal. After evaporation of the methanol the title compound, m.p. >300°, is obtained.

reactant | 5-carboxy-2-(4,5-dihydro-2-thiazolyl)-pyridine | 2.4 mmol, 500 mg | C(=O)(O)C=1C=CC(=NC1)C=1SCCN1 | C9H8N2O2S
reactant | diphenylether | 5 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | methanol | CO | CH4O
catalyst | Pd | 50 mg | [Pd] | Pd
product | 5-Carboxy-2-(2-thiazolyl)-pyridine | C(=O)(O)C=1C=CC(=NC1)C=1SC=CN1 | C9H6N2O2S
